US08039463B2
HOBt (83 mg, 0.61 mmol), DMAP (125 mg, 1.02 mmol) and EDCI.HCl (118 mg, 0.61 mmole) were added to a stirred solution of 2-fluoro-malonic acid monomethyl ester (70 mg, 0.514 mmol) in DMF (2 mL). Biphenyl-4-ylamine (100 mg, 0.61 mmol) was then added and the resulting mixture was stirred at ambient temperature overnight. The mixture was then diluted with water and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with brine solution, dried over sodium sulphate and concentrated under reduced pressure to afford 114 mg (80%) of N-biphenyl-4-yl-2-fluoro-malonamic acid methyl ester

reactant | HOBt | 0.61 mmol, 83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.61 mmole, 118 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-fluoro-malonic acid monomethyl ester | 0.514 mmol, 70 mg | COC(C(C(=O)O)F)=O | C4H5FO4
reactant | Biphenyl-4-ylamine | 0.61 mmol, 100 mg | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
catalyst | DMAP | 1.02 mmol, 125 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-2-fluoro-malonamic acid methyl ester | 114 mg, 80% | COC(C(C(=O)NC1=CC=C(C=C1)C1=CC=CC=C1)F)=O | C16H14FNO3
